US09127003B2
Intermediate 10: 1-Ethyl-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde
In a separate reaction: To a suspension of 1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde (600 mg, 4.11 mmol) and Cs2CO3 (2675 mg, 8.21 mmol) in N,N-Dimethylformamide (DMF) (20 mL) stirred under nitrogen at 20° C. was added iodoethane (0.498 mL, 6.16 mmol) dropwise during 0.5 min. The reaction mixture was stirred at r.t. for 1 h, TLC showed complete conversion.

reactant | 1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | 4.11 mmol, 600 mg | N1C(=CC=2C1=NC=CC2)C=O | C8H6N2O
reactant | Cs2CO3 | 8.21 mmol, 2675 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodoethane | 6.16 mmol, 0.498 mL | ICC | C2H5I
solvent | N,N-Dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-Ethyl-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | C(C)N1C(=CC=2C1=NC=CC2)C=O | C10H10N2O
